US05977139
Combine 2-(trimethylsilyl)ethanol (7.3 mL) and triethylamine (25 mL) in dichloromethane (80 mL). Cool in an ice bath. Add dropwise chloroacetyl chloride (6.9 g). After the addition is complete warm the reaction mixture to ambient temperature After 5 hours, add chloroacetyl chloride (2.8 g), After 2 hours, filter the reaction mixture and extract with a saturated aqueous solution of sodium bicarbonate and then water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Distill the residue to give 2-(trimethylsilyl)ethyl chloroacetate: bp 150° C. at 28 mm of Hg.

reactant | 2-(trimethylsilyl)ethanol | 7.3 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 6.9 g | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 2.8 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-(trimethylsilyl)ethyl chloroacetate | ClCC(=O)OCC[Si](C)(C)C | C7H15ClO2Si
